US08106064B2
3-[(2,6-Bis-benzyloxy-5-tert-butyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile (56):
To a stirred mixture of 2,4-Bis-benzyloxy-5-tert-butyl-6-chloro-pyrimidine (3.8 g, 10 mmol) and 3-cyano-5-methylphenyl acetonitrile (1.56 g, 10 mmol) in anhydrous DMF (20 ml) at 0° C. (ice bath) under nitrogen atmosphere, was portionwise added 60% sodium hydride (880 mg, 22 mmol). After stirring for 1 hr., the mixture was further stirred at room temperature for overnight. The mixture was then neutralized with aqueous saturated ammonium chloride solution and the crude product was extracted with ether and purified by silica gel column chromatography (eluent, EA:hexanes (1:10)) to afford 1.48 g (30%) of the title compound as a colorless syrup. m.p. 126-128° C.; 1H NMR (200 MHz, CDCl3) δ 1.46 (9H, s), 2.36 (3H, s), 5.29 (1H, d, J=12.2 Hz), 5.38 (1H, d, J=12.2 Hz), 5.46 (2H, s), 5.98 (1H, s), 7.22-7.46 (10H, m); m/z (EI) 502 (M+).

reactant | 2,4-Bis-benzyloxy-5-tert-butyl-6-chloro-pyrimidine | 10 mmol, 3.8 g | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C(C)(C)C)Cl | C22H23ClN2O2
reactant | 3-cyano-5-methylphenyl acetonitrile | 10 mmol, 1.56 g | C(#N)C=1C=C(C=C(C1)C)CC#N | C10H8N2
reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[(2,6-Bis-benzyloxy-5-tert-butyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile | 1.48 g, 30% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(C=1C=C(C#N)C=C(C1)C)C#N)C(C)(C)C)OCC1=CC=CC=C1 | C32H30N4O2
